US08293917B2
To 5-methyl-1H-pyrazole-4-carboxylic acid (390 mg, 3.1 mmol) in DMF (10 mL) is added triethylamine (1.2 mL, 9.4 mmol) and benzotriazole-1-yl-oxy-tris-(dimethylamino)-phosphonium hexafluorophosphate (PyBOP) (1.8 g, 3.5 mmol). After stirring for 5 min at room temperature, (S)-1-(3-trifluoromethyl-phenyl)-ethylamine (650 mg, 3.4 mmol) is added and the reaction is stirred at room temperature for 2 days. The mixture is then diluted with saturated ammonium chloride and extracted with EtOAc (4×15 mL). The combined organic layer is washed with saturated NaHCO3 solution (20 mL) followed by brine (20 mL), dried over sodium sulfate, filtered and concentrated in vacuo. The crude material is purified by flash chromatography on silica gel (eluted with 0 to 60% EtOAc/hexanes) followed by recrystallization from ether/hexanes to provide 5-methyl-1H-pyrazole-4-carboxylic acid [(S)-1-(3-trifluoromethyl-phenyl)-ethyl]-amide as a colorless solid (770 mg, 84%).

reactant | 5-methyl-1H-pyrazole-4-carboxylic acid | 3.1 mmol, 390 mg | CC1=C(C=NN1)C(=O)O | C5H6N2O2
reactant | triethylamine | 9.4 mmol, 1.2 mL | C(C)N(CC)CC | C6H15N
reactant | benzotriazole-1-yl-oxy-tris-(dimethylamino)-phosphonium hexafluorophosphate | 3.5 mmol, 1.8 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | (S)-1-(3-trifluoromethyl-phenyl)-ethylamine | 3.4 mmol, 650 mg | FC(C=1C=C(C=CC1)[C@H](C)N)(F)F | C9H10F3N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ammonium chloride | [Cl-].[NH4+]
product | 5-methyl-1H-pyrazole-4-carboxylic acid [(S)-1-(3-trifluoromethyl-phenyl)-ethyl]-amide | 770 mg, 84% | FC(C=1C=C(C=CC1)[C@H](C)NC(=O)C=1C=NNC1C)(F)F | C14H14F3N3O
